US06307046B1
In a stainless steel autoclave of an inner volume of 100 ml, 1.26 g (10 mmol) of melamine, 250 mg of 5% Pd—C catalyst, and 30 ml of diethylene glycol were charged. After the inside of the reaction system was sufficiently substituted with nitrogen gas, 10 kg/cm2 of hydrogen gas was introduced under pressure at normal temperature. Then, the temperature was elevated while stirring, and after the temperature reached 260° C., the reaction was carried out at the same temperature for further 2 hours. After cooling, the reaction mixture was taken out and quantitative analysis of the reaction product was performed under the above analytical conditions. As a result, the reaction conversion rate of the starting material melamine was 21.5% and it was confirmed that there was produced only 13.5% of 2,4-diamino-6-(5-hydroxy-3-oxapentylamino)-1,3,5-triazine as the product, and an obvious decrease in activity as compared with the mixed catalyst systems was confirmed.

reactant | melamine | 10 mmol, 100 ml, 1.26 g | N1=C(N)N=C(N)N=C1N | C3H6N6
reactant | hydrogen | [H][H] | H2
reactant | diethylene glycol | 30 ml | C(COCCO)O | C4H10O3
catalyst | Pd—C | 250 mg | [Pd] | Pd
product | 2,4-diamino-6-(5-hydroxy-3-oxapentylamino)-1,3,5-triazine | 13.5% | NC1=NC(=NC(=N1)N)NCCOCCO | C7H14N6O2
